US07205292B2
Step A. 2-(2-Bromoethyl)nitrobenzene
Triphenylphosphine (39.2 g, 0.150 mol) and carbon tetrabromide (49.5 g, 0.150 mol) were added sequentially to a solution of 2-(2-hydroxyethyl)-nitrobenzene (25.0 g, 0.150 mol) in methylene chloride (400 mL) at 0° C. The reaction was stirred overnight and quenched with saturated sodium bicarbonate solution. The methylene chloride phase was washed with saturated brine and dried over magnesium sulfate. The crude product was treated with ethyl acetate, and the precipitated triphenylphosphine oxide removed by filtration. Further purification by flash chromatography by (silica gel, 0–10% ethyl acetate in hexane gradient elution) produced the title compound (27.9 g).

reactant | Triphenylphosphine | 0.150 mol, 39.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.150 mol, 49.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | 2-(2-hydroxyethyl)-nitrobenzene | 0.150 mol, 25.0 g | OCCC1=C(C=CC=C1)[N+](=O)[O-] | C8H9NO3
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Bromoethyl)nitrobenzene | 27.9 g | BrCCC1=C(C=CC=C1)[N+](=O)[O-] | C8H8BrNO2
